US05124332
Step (a): Preparation of 4-(1H-3-indolyl)-3-cyclohexenone ethylene ketal
Indole (45.3 g, 0.38 mol), 1,4-cyclohexanedione monoethylene ketal (45.5 g, 0.29 mol) and potassium hydroxide (9.12 g, 0.16 mol) are heated to reflux in 100 mL of methanol for 18 hours. The reaction is cooled and the product is isolated by filtration and washed with water to give a white solid (69.0 g).

reactant | Indole | 0.38 mol, 45.3 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1,4-cyclohexanedione monoethylene ketal | 0.29 mol, 45.5 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | potassium hydroxide | 0.16 mol, 9.12 g | [OH-].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 4-(1H-3-indolyl)-3-cyclohexenone ethylene ketal | 69.0 g | C1COC2(CC=C(CC2)C2=CNC3=CC=CC=C23)O1 | C16H17NO2
